US06960583B2
4-(2.4-dichlorophenyl)-8-(3-pentyl)-7-ethyl-2-methyl-pyrazolo[1,5-a]-1,3,5-triazine
A mixture of N-(1-(methylthio)ethylidene)-2,4-dichlorobenzamide (100 mg, 0.38 mmol) and 3-amino-5-ethyl-4-(3-pentyl)pyrazole (69 mg, 0.38 mmol) in dioxan (1 mL) was stirred at reflux temperature for 2 h. After being cooled to room temperature, the reaction mixture was concentrated in vacuo. Preparative TLC using EtOAc:hexanes::1:1 generated the title product (68 mg, 47% yield), which was identical to the product obtained by the method described in Example 1.

reactant | N-(1-(methylthio)ethylidene)-2,4-dichlorobenzamide | 0.38 mmol, 100 mg | CSC(C)=NC(C1=C(C=C(C=C1)Cl)Cl)=O | C10H9Cl2NOS
reactant | 3-amino-5-ethyl-4-(3-pentyl)pyrazole | 0.38 mmol, 69 mg | NC1=NNC(=C1C(CC)CC)CC | C10H19N3
solvent | dioxan | 1 mL | O1CCOCC1 | C4H8O2
product | 4-(2.4-dichlorophenyl)-8-(3-pentyl)-7-ethyl-2-methyl-pyrazolo[1,5-a]-1,3,5-triazine | 68 mg, 47% yield | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=2N1N=C(C2C(CC)CC)CC)C | C19H22Cl2N4
